US05780633
To a solution of methyl 4-[1-(S)-(4-isobutylphenyl)-butoxy]benzoate (283 mg) and 2-methylpyridine (0.09 ml) in tetrahydrofuran (5 ml) was added 1.0M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (2.7 ml) at 0° C. The mixture was stirred for 18 hours at room temperature. Acetic acid (0.18 ml) and ethyl acetate (15 ml) was added to the mixture. The mixture was washed with water and aqueous solution of sodium bicarbonate, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (2:1) to give 4-[1-(S)-(4-isobutylphenyl)butoxy]phenyl 2-pyridylmethyl ketone as a yellow oil (216 mg).

reactant | methyl 4-[1-(S)-(4-isobutylphenyl)-butoxy]benzoate | 283 mg | C(C(C)C)C1=CC=C(C=C1)[C@H](CCC)OC1=CC=C(C(=O)OC)C=C1 | C22H28O3
reactant | 2-methylpyridine | 0.09 ml | CC1=NC=CC=C1 | C6H7N
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Acetic acid | 0.18 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.7 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 4-[1-(S)-(4-isobutylphenyl)butoxy]phenyl 2-pyridylmethyl ketone | 216 mg | N1=C(C=CC=C1)CC(=O)C1=CC=C(C=C1)O[C@@H](CCC)C1=CC=C(C=C1)CC(C)C | C27H31NO2
